US06809188B1
220.2 g(0.3 mol) of erythromycin A was dissolved in a mixture of 1,500 ml of methanol and 1,000 ml of water. 79 ml(0.9 mol) of 35% hydrogen peroxide was added dropwise to the solution at a temperature ranging from 15 to 20° C. and stirred at room temperature for 20 hours in a similar method described in E. H. Flynn et al., J. Am. Chem. Soc., 76, 3121(1954) and P. H. Jones et al., J. Org. Chem., 33, 665(1968). The resulting mixture was concentrated to a half volume under a reduced pressure and extracted successively with 1,000 ml and 500 ml portions of chloroform. The combined chloroform extract was washed with brine, dried over anhydrous magnesium sulfate, and then, concentrated under a reduced pressure to obtain a foamy residue. 1,000 ml of acetone was added to the residue and stirred at room temperature for 3 hours. The crystalline material formed was filtered and dried overnight at 45° C. to obtain 220 g of erythromycin a N-oxide in a yield of 98%.

reactant | erythromycin A | 0.3 mol, 220.2 g | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)O)(C)O | C37H67NO13
reactant | hydrogen peroxide | 0.9 mol, 79 ml | OO | H2O2
reactant | acetone | 1,000 ml | CC(=O)C | C3H6O
solvent | methanol | 1,500 ml | CO | CH4O
solvent | water | 1,000 ml | O | H2O
product | erythromycin a N-oxide | 220 g, yield of 98% | CC[C@@H]1[C@@]([C@@H]([C@H](C(=O)[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)[N+](C)(C)[O-])O)(C)O)C)C)O)(C)O | C37H67NO14
